US04563310
Following the procedure of Example 11, 4-(2,4-dichlorophenoxy)-1,2-dinitrobenzene is reacted with dimethyl methylphosphonite to give methyl P-methyl-2-nitro-5-(2,4-dichloro-phenoxy)phenylphosphinate, m/s 376 (M+).

reactant | 4-(2,4-dichlorophenoxy)-1,2-dinitrobenzene | ClC1=C(OC2=CC(=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C=CC(=C1)Cl | C12H6Cl2N2O5
reactant | dimethyl methylphosphonite | CP(OC)OC | C3H9O2P
product | methyl P-methyl-2-nitro-5-(2,4-dichloro-phenoxy)phenylphosphinate | CP(OC)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)Cl)Cl)[N+](=O)[O-] | C14H12Cl2NO5P
